US06051712
In an analogous manner to that described in Example 62(h), by alkylating tert-butyl (3RS,4RS,5SR)-4-(4-chloro-phenyl)-3-hydroxy-5-propyl-piperidine-1-carboxylate with 2-chloromethyl-1-ethyl-1H-benzoimidazole [Acta Pol. Pharm. 1977, 34(4), 359-369] there was obtained tert-butyl (3RS,4RS,5SR)-4-(4-chloro-phenyl)-3-(1-ethyl-1H-benzimidazol-2-ylmethoxy)-5-propyl-piperidine-1-carboxylate as a colourless oil, MS: 495 (M+H)+.

reactant | tert-butyl (3RS,4RS,5SR)-4-(4-chloro-phenyl)-3-hydroxy-5-propyl-piperidine-1-carboxylate | ClC1=CC=C(C=C1)C1C(CN(CC1CCC)C(=O)OC(C)(C)C)O | C19H28ClNO3
reactant | 2-chloromethyl-1-ethyl-1H-benzoimidazole | ClCC1=NC2=C(N1CC)C=CC=C2 | C10H11ClN2
product | tert-butyl (3RS,4RS,5SR)-4-(4-chloro-phenyl)-3-(1-ethyl-1H-benzimidazol-2-ylmethoxy)-5-propyl-piperidine-1-carboxylate | ClC1=CC=C(C=C1)C1C(CN(CC1CCC)C(=O)OC(C)(C)C)OCC1=NC2=C(N1CC)C=CC=C2 | C29H38ClN3O3
